US04129656
According to Example 2(a), 13.26 g (50 mmoles) of 5-chloro-6-chlorosulfonyl-1-indanone, 5.89 g (55 mmoles) of benzylamine and 5.05 g (50 mmoes) of triethylamine in a total of 100 ml of acetone yield 6-benzylsulfamoyl-5-chloro-1-indanone having a melting point of 203° to 205° C., from which the pure product is obtained after a recrystallization from ethanol, said product having a melting point of 228° to 231° C.

reactant | 5-chloro-6-chlorosulfonyl-1-indanone | 50 mmoles, 13.26 g | ClC=1C=C2CCC(C2=CC1S(=O)(=O)Cl)=O | C9H6Cl2O3S
reactant | benzylamine | 55 mmoles, 5.89 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-benzylsulfamoyl-5-chloro-1-indanone | C(C1=CC=CC=C1)NS(=O)(=O)C1=C(C=C2CCC(C2=C1)=O)Cl | C16H14ClNO3S
